US08980911B2
A mixture of methyl 3,5-dichloro-4-{[4-(propanoylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}benzoate (250 mg, 0.59 mmol) and sodium hydroxide (23 mg, 0.59 mmol) in tetrahydrofuran and water (1:1) was stirred at room temperature for about 1 hour. Tetrahydrofuran was removed in vaccuo and aqueous layer was diluted with water (5 mL) and acidified with hydrochloric acid (2N, upto pH 2). The solid thus obtained was filtered and dried to afford 3,5-dichloro-4-{[4-(propanoylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}benzoic acid (170 mg, 70%). The material was taken as such for the next step.

reactant | methyl 3,5-dichloro-4-{[4-(propanoylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}benzoate | 0.59 mmol, 250 mg | ClC=1C=C(C(=O)OC)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(CC)=O)Cl | C19H15Cl2N3O4
reactant | sodium hydroxide | 0.59 mmol, 23 mg | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3,5-dichloro-4-{[4-(propanoylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}benzoic acid | 170 mg, 70% | ClC=1C=C(C(=O)O)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(CC)=O)Cl | C18H13Cl2N3O4
